US07462630B2
Synthesis of ({[(1-methylcyclopentyl)oxy]carbonyl}amino)acetic acid:
500 mg (3.87 mmol) of ethyl isocyanatoacetate was dissolved in 5 ml of dichloromethane. 0.05 ml of 4 N hydrochloric acid/1,4-dioxane solution was added to the obtained solution. 465 mg (4.64 mmol) of 1-methylcyclopentanol was added to the resultant mixture, and they were stirred for 3 hours 30 minutes. 10 ml of methanol and 12 ml of 1 N aqueous sodium hydroxide solution were added thereto and they were stirred for 15 minutes. The organic solvent was evaporated under reduced pressure. After extracting with dichloromethane twice, the aqueous layer was neutralized with 1 N aqueous hydrochloric acid solution. The product was extracted with dichloromethane 3 times and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound. The product was subjected to the next reaction without any purification.

reactant | ethyl isocyanatoacetate | 3.87 mmol, 500 mg | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | hydrochloric acid 1,4-dioxane | 4 N, 0.05 ml | Cl.O1CCOCC1
reactant | 1-methylcyclopentanol | 4.64 mmol, 465 mg | CC1(CCCC1)O | C6H12O
reactant | sodium hydroxide | 1 N, 12 ml | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | ({[(1-methylcyclopentyl)oxy]carbonyl}amino)acetic acid | CC1(CCCC1)OC(=O)NCC(=O)O | C9H15NO4
